US07410971B2
4-(2-Chloro-4-nitrophenyl)piperazine-1-carboxylic acid t-butyl ester
A mixture of 3-chloro-4-fluoronitrobenzene (5 g, 27.1 mmol), 1-piperazinecarboxylic acid t-butyl ester (5 g, 26.8 mmol) and dimethylformamide (10 mL) was stirred for 3 hours and 30 minutes at an external temperature of 130° C. After adding water to the air-cooled reaction mixture, extraction was performed 3 times with chloroform. The organic layers were washed with brine and dried over anhydrous magnesium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/heptane) to give 5.93 g of the title compound as a yellow solid.

reactant | 3-chloro-4-fluoronitrobenzene | 27.1 mmol, 5 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 1-piperazinecarboxylic acid t-butyl ester | 26.8 mmol, 5 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-Chloro-4-nitrophenyl)piperazine-1-carboxylic acid t-butyl ester | 5.93 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])Cl | C15H20ClN3O4
